US07741352B2
2-Hydroxy-4-[4-(3-hydroxy-prop-1-ynyl)-benzylamino]-benzoic acid (Compound 6-15)
2-Hydroxy-4-[4-(3-hydroxy-prop-1-ynyl)-benzylamino]-benzoic acid methyl ester (22 mg; 0.07 mmol) was dissolved in THF/H2O (1 mL/0.25 mL) and LiOH was added (17 mg; 0.7 mmol). The reaction mixture was heated to 90° C. for 1 hour. THF was removed by evaporation and EtOAc (3 mL) and H2O (0.5 mL) was added. The organic phase was isolated, dried (Na2SO4), filtered, evaporated to dryness and purified by flash column chromatography (SiO2-PE80-100° C./EtOAc/CH3COOH=1:1:1%) to yield 3.6 mg (17%) of pure product.

reactant | 2-Hydroxy-4-[4-(3-hydroxy-prop-1-ynyl)-benzylamino]-benzoic acid methyl ester | 0.07 mmol, 22 mg | COC(C1=C(C=C(C=C1)NCC1=CC=C(C=C1)C#CCO)O)=O | C18H17NO4
reactant | LiOH | [Li+].[OH-]
solvent | THF H2O | 1 mL | C1CCOC1.O
product | 2-Hydroxy-4-[4-(3-hydroxy-prop-1-ynyl)-benzylamino]-benzoic acid | 3.6 mg, 17% | OC1=C(C(=O)O)C=CC(=C1)NCC1=CC=C(C=C1)C#CCO | C17H15NO4
